US04556713
A mixture of 3.0 g of 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 25 ml of thionyl chloride and 2 drops of N,N-dimethylformamide was heated on a steam bath for 15 minutes. The excess thionyl chloride was removed by evaporation. The residue of solid 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxyl chloride was suspended in 100 ml of dichloromethane, the mixture was stirred and 10 ml of dimethylaminoethanol was added. After 10 minutes of stirring the solution was washed with sodium bicarbonate solution, then dried over magnesium sulfate. The solution was treated with decolorizing charcoal, filtered and concentrated to provide an oil. When cyclohexane was added, tan solid N,N-dimethylaminoethyl 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate formed. This product was dissolved in 50 ml of hot isopropanol, treated with decolorizing charcoal and filtered. A solution of isopropanol saturated with hydrogen chloride gas was added until the mixture became acidic. The white precipitate that formed was N,N-dimethylaminoethyl 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate hydrochloride, m.p. 250° C. (dec.) Analysis: Calculated for C18H20BrFN2O3.HCl: %C, 48.3; %H, 4.7; %N, 6.2; Found: %C, 48.4; %H, 5.0; %N, 6.2.

reactant | 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.0 g | BrC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)F | C14H11BrFNO3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N,N-dimethylaminoethyl 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate | BrC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)OCCN(C)C)=O)F | C18H20BrFN2O3
